US04448781
A solution of 4-(1-imidazolylmethyl)phenoxyacetic acid ethyl ester (1.02 g) in 33% ethanolic methylamine was allowed to stand for 24 hour. The solution was evaporated and the residue was crystallised from ethyl acetate/petrol to give N-methyl-4-(1-imidazolylmethyl)phenoxyacetamide (0.61 g), m.p. 124°-125° C. Found: C, 63.44, H, 6.21, N, 17.25. C13H15N3O2 requires: C, 63.66, H, 6.16, N, 17.13%.

reactant | 4-(1-imidazolylmethyl)phenoxyacetic acid ethyl ester | 1.02 g | C(C)OC(COC1=CC=C(C=C1)CC=1NC=CN1)=O | C14H16N2O3
reactant | methylamine | CN | CH5N
product | N-methyl-4-(1-imidazolylmethyl)phenoxyacetamide | 0.61 g | CNC(COC1=CC=C(C=C1)CC=1NC=CN1)=O | C13H15N3O2
